US07553973B2
Step 1: 4 Hydroxy-7-methyl-2H-chromen-2-one
To a 80° C. suspension of NaH (60 g, 1500 mmol, 60%) in toluene was added 1-(2-hydroxy-4-methylphenyl)ethanone (100 g, 666 mmol; also known as 2′-hydroxy-4′-methylacetophenone) in 800 mL of toluene over 1 h. This was followed by the dropwise addition of diethyl carbonate (157 g, 1.3 mol) in 1000 ml of toluene over 1 h. The reaction mixture was left at 80° C. overnight. After cooling to rt, the solution was poured into 1.6 L of HCl (2N). The precipitate formed was filtered, collected and stirred in MeOH (minimum amount). After filtration, the title compound was dried overnight (at 55° C., under high vacuum) to yield the title compound. 1H NMR (400 MHz, DMSO-d6): δ 12.45 (1H, s), 7.58 (1H, d), 7.13 (2H, m), 6.53 (1H, s) and 2.39 (3H, s).

reactant | NaH | 1500 mmol, 60 g | [H-].[Na+]
reactant | 1-(2-hydroxy-4-methylphenyl)ethanone | OC1=C(C=CC(=C1)C)C(C)=O | C9H10O2
reactant | diethyl carbonate | 1.3 mol, 157 g | C(OCC)(OCC)=O | C5H10O3
reactant | HCl | 2N, 1.6 L | Cl | ClH
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | Hydroxy-7-methyl-2H-chromen-2-one | OC=1C(OC2=CC(=CC=C2C1)C)=O | C10H8O3
